US07385059B2
1A. 4-Nitro-1H-pyrazole-3-carboxylic acid phenylamide
4-Nitropyrazole-3-carboxylic acid (2.5 g; 15.9 mmol) was added to a stirred solution of aniline (1.6 ml; 17.5 mmol), EDC (3.7 g; 19.1 mmol), and HOBt (2.6 g; 19.1 mmol) in N,N-dimethylformamide (DMF) (25 ml), then stirred at room temperature overnight. The solvent was removed by evaporation under reduced pressure and the residue triturated with ethyl acetate/saturated NaHCO3 solution. The resultant solid was collected by filtration, washed with water and diethyl ether then dried under vacuum to give 2.85 g of the title compound (sodium salt) as a yellow/brown solid. (LC/MS: Rt 2.78, [M+H]+232.95).

reactant | 4-Nitropyrazole-3-carboxylic acid | 15.9 mmol, 2.5 g | [N+](=O)([O-])C=1C(=NNC1)C(=O)O | C4H3N3O4
reactant | aniline | 17.5 mmol, 1.6 ml | NC1=CC=CC=C1 | C6H7N
reactant | EDC | 19.1 mmol, 3.7 g
reactant | HOBt | 19.1 mmol, 2.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 4-Nitro-1H-pyrazole-3-carboxylic acid phenylamide | 2.85 g | C1(=CC=CC=C1)NC(=O)C1=NNC=C1[N+](=O)[O-] | C10H8N4O3
